US08975256B2
9-Chloro-2,2,4-trimethyl-1,4-dihydro-2H-6-oxa-1,4-diazachrysen-3,5-dione (Reference Compound No. 11-1)
7-(5-Chloro-2-methoxyphenyl)-8-methoxycarbonyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 10-1, 3.81 g, 9.80 mmol) was dissolved in anhydrous dichloromethane (30 mL), boron tribromide (7.62 g, 30.4 mmol) was added thereto at −78° C., and then stirred at room temperature for 1 hour. The reaction mixture was poured into ice water (500 mL), ethyl acetate (500 mL) was added thereto and partitioned. The organic layer was washed with saturated brine (200 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was dissolved in N,N-dimethylformamide (50 mL), 60% sodium hydride (23.1 mg, 0.578 mmol) was added thereto, and then stirred at 70° C. overnight. 60% sodium hydride (31.2 mg, 0.780 mmol) was added more thereto and stirred at 80° C. overnight. After cooling down, ethyl acetate (200 mL), diethylether (200 mL) and water (300 mL) were added and partitioned. The organic layer was washed with water (200 mL) and saturated brine (200 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was filtered with ethyl acetate/hexane (1/4, 30 mL) to give the titled reference compound (2.04 g) as a pale yellow solid. (Yield 61%)

reactant | 7-(5-Chloro-2-methoxyphenyl)-8-methoxycarbonyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 9.80 mmol, 3.81 g | ClC=1C=CC(=C(C1)C1=CC=C2NC(C(N(C2=C1C(=O)OC)C)=O)(C)C)OC | C20H21ClN2O4
reactant | boron tribromide | 30.4 mmol, 7.62 g | B(Br)(Br)Br | BBr3
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium hydride | 0.578 mmol, 23.1 mg | [H-].[Na+]
reactant | sodium hydride | 0.780 mmol, 31.2 mg | [H-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | 300 mL | O | H2O
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
product | 9-Chloro-2,2,4-trimethyl-1,4-dihydro-2H-6-oxa-1,4-diazachrysen-3,5-dione | 2.04 g, Yield 61% | ClC1=CC=C2OC(C3=C4N(C(C(NC4=CC=C3C2=C1)(C)C)=O)C)=O | C18H15ClN2O3
